US08017637B2
55.2) 2-[4-(methylamino)butyl]-1H-isoindole-1.3(2H)-dione
0.6 g (1.8 mmol) of tert-butyl[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)butyl]methylcarbamate is solubilized in 865 ml (10.8 mmol; 6 equivalents) of trifluoromethanesulphonic acid and the reaction mixture is maintained under stirring for 2 hours at ambient temperature. The solvents are evaporated off, then the excess acid is coevaporated with 3 times 50 ml of dichloromethane. The expected product is used without other purification in the following stage.

reactant | tert-butyl[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)butyl]methylcarbamate | 1.8 mmol, 0.6 g | C(C)(C)(C)OC(N(C)CCCCN1C(C2=CC=CC=C2C1=O)=O)=O | C18H24N2O4
reactant | trifluoromethanesulphonic acid | 10.8 mmol, 865 ml, 6 equivalents | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 2-[4-(methylamino)butyl]-1H-isoindole-1.3(2H)-dione | CNCCCCN1C(C2=CC=CC=C2C1=O)=O | C13H16N2O2
